US06713499B2
To a stirred suspension of 7.25 g (18.9 mmol) 1-benzoyl-3-[2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenyl]-thiourea in 350 ml methanol was added dropwise 7.02 ml (37.8 mmol) 5.4 M sodium methylate solution and stirring continued for 1 h at room temperature. The resulting crystals were collected by filtration to afford 3.42 g (65%) [2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1 ]hept-5-yl)}-phenyl]-thiourea as a beige solid. ES-MS m/e (%):302 (M+Na+, 20), 281 (M+H+, 100).

reactant | 1-benzoyl-3-[2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenyl]-thiourea | 18.9 mmol, 7.25 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N1[C@@H]2CO[C@H](C1)C2)OC | C20H21N3O3S
reactant | sodium methylate | 37.8 mmol, 5.4 M, 7.02 ml | C[O-].[Na+]
solvent | methanol | 350 ml | CO | CH4O
product | [2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1 ]hept-5-yl)}-phenyl]-thiourea | 3.42 g, 65% | COC1=C(C=C(C=C1)N1[C@@H]2CO[C@H](C1)C2)NC(=S)N | C13H17N3O2S
